US07408065B2
a) 4-[6-Chloro-5-[[(cyclohexylmethyl)amino]carbonyl]-2-quinolinyl]-1-piperazineacetic Acid, Ethyl Ester
Prepared according to the method of example 30, using 2,6-dichloro-N-(cyclohexylmethyl)-5-quinolinecarboxamide Example 43(a)) (200 mg) and 1-piperazineacetic acid, ethyl ester (500 mg) to afford the subtitle compound as a solid (200 mg).

reactant | 2,6-dichloro-N-(cyclohexylmethyl)-5-quinolinecarboxamide | ClC1=NC=2C=CC(=C(C2C=C1)C(=O)NCC1CCCCC1)Cl | C17H18Cl2N2O
reactant | 1-piperazineacetic acid, ethyl ester | 500 mg | N1(CCNCC1)CC(=O)OCC | C8H16N2O2
product | 4-[6-Chloro-5-[[(cyclohexylmethyl)amino]carbonyl]-2-quinolinyl]-1-piperazineacetic Acid, Ethyl Ester | 200 mg | ClC=1C(=C2C=CC(=NC2=CC1)N1CCN(CC1)CC(=O)OCC)C(=O)NCC1CCCCC1 | C25H33ClN4O3
